### PR TITLE
[Merged by Bors] - chore: robustify proofs against leanprover/lean4#4061

### PR DESCRIPTION
**Pull request by kim-em**
leanprover/lean4#4061 results in well-founded definitions being irreducible by default.

This PR robustifies some proofs. (Sometime over-robust: we're going to keep `minFacAux` as semireducible for now, so e.g. `Nat.Prime 5` will still be decidable.)

### CODE REVIEW

File: Mathlib/GroupTheory/CommutingProbability.lean [hunk 1]
```diff
@@ -166,9 +166,11 @@ def reciprocalFactors (n : ℕ) : List ℕ :=
   else
     n % 4 * n :: reciprocalFactors (n / 4 + 1)
 
-@[simp] lemma reciprocalFactors_zero : reciprocalFactors 0 = [0] := rfl
+@[simp] lemma reciprocalFactors_zero : reciprocalFactors 0 = [0] :=  by
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/CommutingProbability.lean:169]:
```suggestion
@[simp] lemma reciprocalFactors_zero : reciprocalFactors 0 = [0] := by
```

File: Mathlib/NumberTheory/LegendreSymbol/JacobiSymbol.lean [hunk 2]
```diff
@@ -374,7 +374,8 @@ theorem even_odd {a : ℤ} {b : ℕ} (ha2 : a % 2 = 0) (hb2 : b % 2 = 1) :
     if_neg (Nat.mod_two_ne_zero.mpr hb2)]
   have := Nat.mod_lt b (by decide : 0 < 8)
   interval_cases h : b % 8 <;> simp_all <;>
-    exact absurd (hb2 ▸ h ▸ Nat.mod_mod_of_dvd b (by decide : 2 ∣ 8)) zero_ne_one
+  { have := hb2 ▸ h ▸ Nat.mod_mod_of_dvd b (by decide : 2 ∣ 8)
+    simp_all }
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LegendreSymbol/JacobiSymbol.lean:378]: I don't think we use braces anymore
```suggestion
  · have := hb2 ▸ h ▸ Nat.mod_mod_of_dvd b (by decide : 2 ∣ 8)
    simp_all
```

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

File: Mathlib/NumberTheory/LegendreSymbol/JacobiSymbol.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/NumberTheory/LegendreSymbol/JacobiSymbol.lean:378]: Blast from the past, oops!

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by semorrison** [comment]
bors merge
